US06093732
N-(4-Chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-hydroxybutyl)-3-quinolinecarboxamide
A mixture of N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-hydroxy-1-butynyl)-3-quinolinecarboxamide from Example No. 96 (173.7 mg) and Pd/C (10%, 34.7 mg) was dissolved in 3:1 CH2Cl2 :MeOH. The reaction mixture was placed under the Parr hydrogenator and monitored with the OAMS for complete reduction of the acetylene. The reaction was completed in 1 hr and filtered over celite to remove the palladium. The filtrate was condensed to obtain a yellow solid. The crude product was recrystallized with EtOAc/hexanes to yield 123.8 mg (71%) of the desired product as an off-white solid.

reactant | N-(4-chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-hydroxy-1-butynyl)-3-quinolinecarboxamide | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)C#CC(C)O)F)C=C1 | C21H16ClFN2O3
reactant | MeOH | CO | CH4O
reactant | acetylene | C#C | C2H2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd/C | 34.7 mg | [Pd] | Pd
product | N-(4-Chlorobenzyl)-8-fluoro-4-hydroxy-6-(3-hydroxybutyl)-3-quinolinecarboxamide | 123.8 mg, 71% | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)CCC(C)O)F)C=C1 | C21H20ClFN2O3
